US06492394B1
To a solution of 2(R)-{(4-methoxy-2,3,6-trimethylbenzenesulfonyl)-[1H-indol-5-ylmethyl]amino}-3-tert-butoxypropionic acid methyl ester (1.0 g, 1.94 mmol) in 50% methanol/tetrahydrofuran (10 mL) was added a solution of LiOH.H2O (160 mg, 3.88 mmol) in water (1 mL). The reaction mixture was heated to 40° C. for 12 h and an additional amount of LiOH.H2O (160 mg, 3.88 mmol) in water (1 mL) was added. After 3 h, the aqueous solution was acidified to pH 3 using 2 N aqueous hydrochloric acid and the product was extracted into ethyl acetate. The combined ethyl acetate layers were dried over magnesium sulfate and concentrated to afford 2(R)-[(1H-indol-5-ylmethyl)-(4-methoxy-2,3,6-trimethylbenzene-sulfonyl)amino]-3-tert-butoxypropionic acid (0.90 g).

reactant | 2(R)-{(4-methoxy-2,3,6-trimethylbenzenesulfonyl)-[1H-indol-5-ylmethyl]amino}-3-tert-butoxypropionic acid methyl ester | 1.94 mmol, 1.0 g | COC([C@@H](COC(C)(C)C)N(CC=1C=C2C=CNC2=CC1)S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C27H36N2O6S
reactant | LiOH.H2O | 3.88 mmol, 160 mg | O[Li].O
reactant | LiOH.H2O | 3.88 mmol, 160 mg | O[Li].O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | methanol tetrahydrofuran | 10 mL | CO.O1CCCC1
solvent | water | 1 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2(R)-[(1H-indol-5-ylmethyl)-(4-methoxy-2,3,6-trimethylbenzene-sulfonyl)amino]-3-tert-butoxypropionic acid | 0.90 g | N1C=CC2=CC(=CC=C12)CN([C@@H](C(=O)O)COC(C)(C)C)S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C | C26H34N2O6S
